US05177089
A mixture of 1.55 g of N-methyl-N-(2-(3,4-dimethoxyphenyl)propyl)amine, 1.98 g of N-(3-bromopropyl) phthalimide, 1.0 g of anhydrous potassium carbonate and 10 ml of acetonitrile was refluxed under heating for 6 hours. They were allowed to cool and then concentrated after filtering out insoluble matters. The residue was purified on silica gel column chromatography (solvent: chloroform:methanol=100:1), to obtain 2.71 g of N-(3-(N'-(2-(3,4-dimethxoxyphenyl)propyl)-N'-methyl)amino)propyl)phthalimide as yellow oil. The product was dissolved in 20 ml of ethanol, to which 0.4 ml of hydrazine monohydrate was added and refluxed under heating for 2 hours. Deposited matters were filtered out and diluted aqueous solution of sodium hydroxide was added, which was extracted with chloroform. After drying with anhydrous sodium sulfate, the solvent was distilled off and the residue was purified on silica gel column chromatography (solvent: chloroform:methanol:concentrated aqueous ammonia: 100:10:1) to obtain 1.54 g of the above-captioned compound as yellow oil (yield: 78%).

reactant | N-methyl-N-(2-(3,4-dimethoxyphenyl)propyl)amine | 1.55 g | CNCC(C)C1=CC(=C(C=C1)OC)OC | C12H19NO2
reactant | N-(3-bromopropyl) phthalimide | 1.98 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
